US04430337
2-Methyl-1-cyclohexene-1-carbaldehyde
To 118 ml. (190 mmole) of 1.6M methyllithium in tetrahydrofuran, cooled under N2 to -78° C., was added over 30 minutes title product of the preceding Preparation (16 g., 95 mmole) in 100 ml. ether. After 30 minutes at -78° C., the reaction mixture was warmed slowly to room temperature, stirred for 1 hour, quenched by slowly adding 50 ml. 1N HCl, stirred 15 minutes, poured into 500 ml. water and extracted 3×150 ml. ether. The combined ether extracts were washed 1×50 ml. H2O, 1×50 ml. saturated NaHCO3, dried over Na2SO4, concentrated to an oil, taken up in 300 ml. acetone, cooled to 0° C. and treated dropwise with Jones reagent until a faint orange color persisted (about 10 ml.). The solution was warmed to room temperature, stirred 15 minutes, diluted with 200 ml. of water, and concentrated in vacuo to remove acetone. The concentrate was extracted 3×100 ml. ether. The ether extracts were combined, washed 1×50 ml. water and 1×50 ml. saturated NaHCO3, dried over Na2SO4 ; concentrated to an oil and title product recovered by distillation, 6.4 g., b.p. 58°-62°/0.2 mm., pnmr (CCl4) includes aldehyde proton peak at delta 9.9-10 ppm.

reactant | methyllithium | 190 mmole, 1.6M | C[Li]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Methyl-1-cyclohexene-1-carbaldehyde | CC1=C(CCCC1)C=O | C8H12O
